US08373011B2
Further, the produced amount of the tricosane was quantitatively assayed by gas chromatography (under the same conditions as those employed in GC/MAS). As a result, the content (production rate) of 11-methyl-11,13-dioctyl tricosane in the product with 40-carbon atoms was 76% by mass. The percentage occupied in the distilled residue was 70% by mass. Therefore, the yield of the tricosane was calculated so that the total process yield from the raw-material decene was 28% by mass and the yield from the vinylidene olefin was 35% by mass.

reactant | tricosane | CCCCCCCCCCCCCCCCCCCCCCC | C23H48
reactant | 11-methyl-11,13-dioctyl tricosane | CC(CCCCCCCCCC)(CC(CCCCCCCCCC)CCCCCCCC)CCCCCCCC | C40H82
product | decene | C=CCCCCCCCC | C10H20
